US05466681
Ethyl 4-O-β-galactopyranosyl-1-thio-β-D-glucopyranoside (2):
To a mixture of β-lactose peracetate (50 g), ethanethiol (6.9 g, 822 ml) and 200 ml dry CH2Cl2 was added BF3 /Et2O (8.5 g, 7.3 ml) at RT. After 2 hours, TLC (toluene/ethyl acetate 2/3) showed no more reaction. The mixture was shaken with ca 500 ml 1M NaOH. The organic layer was directly evaporated and taken up in methanol (150 ml), then NaOMe in methanol (10 ml, 0.5M) was added and the mixture was stirred overnight at RT. The TLC (ethyl acetate/acetic acid/methanol/water 12/3/3/3) yields an Rf 0.41. The reaction mixture was neutralized with Dowex (50w×8, H+) filtered and concentrated The residue was recrystallized from ethanol (300 ml). Yield 16.4 g, 56%, mp 191°-192° C.

reactant | β-lactose peracetate | 50 g | C(C)(=O)OO.O[C@H]1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO
reactant | ethanethiol | 822 ml, 6.9 g | C(C)S | C2H6S
reactant | BF3 Et2O | 7.3 ml, 8.5 g | B(F)(F)F.CCOCC
reactant | NaOH | 1M, ca 500 ml | [OH-].[Na+]
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 4-O-β-galactopyranosyl-1-thio-β-D-glucopyranoside | [C@@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@H](SCC)O[C@@H]1CO)O)O | C14H26O10S
